US04337256
One hundred and fifty (150) grams of methyl 2-cyanomethylbenzoate ("Yakugaku Zasshi", Vol. 86, p. 544, 1966) was added dropwise to a suspension of 60 g of lithium aluminum hydride and 211 g of aluminium chloride in ether while maintaining the suspension at -20° C. The mixture was stirred at room temperature for 5 hours, and the aluminum complex was decomposed with 520 ml of a 10 N aqueous solution of sodium hydroxide and 140 ml of water. The residue was extracted with tetrahydrofuran, dried, and distilled under reduced pressure to afford 45 g of 1-amino-2-(2-hydroxymethylphenyl)ethane as a colorless oil having a boiling point of 125° C./0.5 mmHg.

reactant | methyl 2-cyanomethylbenzoate | C(#N)CC1=C(C(=O)OC)C=CC=C1 | C10H9NO2
reactant | lithium aluminum hydride | 60 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminium chloride | 211 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | water | 140 ml | O | H2O
product | 1-amino-2-(2-hydroxymethylphenyl)ethane | 45 g | NCCC1=C(C=CC=C1)CO | C9H13NO
